US07772226B2
(a) 2-bromo-1-(2-butynyl)-1H-imidazole-4,5-dicarbonitrile
69.8 g of potassium carbonate and 50 ml N,N-dimethylformamide solution of 74 ml of 1-bromo-2-butyne were added to a 520 ml N,N-dimethylformamide solution of 90.6 g of 2-bromo-1H-imidazole-4,5-dicarbonitrile [CAS No 50847-09-1], and the mixture was heated at 50° C. for 8 hours. 1 L of ethyl acetate and 500 ml of water were added to the solution, and the organic layer was washed twice with 500 ml of water and then with 500 ml of a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 48.0 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (1:4).

reactant | potassium carbonate | 69.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-bromo-2-butyne | 74 ml | BrCC#CC | C4H5Br
reactant | N,N-dimethylformamide | 520 ml | CN(C=O)C | C3H7NO
reactant | 2-bromo-1H-imidazole-4,5-dicarbonitrile | 90.6 g | BrC=1NC(=C(N1)C#N)C#N | C5HBrN4
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 2-bromo-1-(2-butynyl)-1H-imidazole-4,5-dicarbonitrile | 48.0 g | BrC=1N(C(=C(N1)C#N)C#N)CC#CC | C9H5BrN4
